US07435815B2
Ethyl-(1H-imidazol-2-ylmethyl)-amine
prepared by reaction of ethylamine with 1H-imidazole-2-carbaldehyde

reactant | ethylamine | C(C)N | C2H7N
reactant | 1H-imidazole-2-carbaldehyde | N1C(=NC=C1)C=O | C4H4N2O
product | Ethyl-(1H-imidazol-2-ylmethyl)-amine | C(C)NCC=1NC=CN1 | C6H11N3
